US07109225B2
a] 4-(2-tert-Butyl-5-methyl-oxazol-4-ylmethoxy)-benzo[b]thiophene-7-carbaldehyde
0.600 g of 2-tert-butyl-4-chloromethyl-5-methyl-oxazole (example 1, step b], 3.197 mmol) was dissolved in 12 ml of acetone and treated successively with 0.570 g of 4-hydroxy-benzo[b]thiophene-7-carbaldehyde (3.197 mmol), 1.146 g of Cs2CO3 (3.517 mmol), and 0.0265 g of KI (0.16 mmol). The mixture was then refluxed under an atmosphere of Ar. After cooling, the reaction mixture was poured onto crashed ice, extracted twice with AcOEt, the organic layer washed with water, dried over magnesium sulfate, and the solvents removed i.V. Flash chromatography (SiO2, hexane/AcOEt=8/2) yielded 0.901 g of the title compound as white crystals of mp. 119–200.

reactant | 2-tert-butyl-4-chloromethyl-5-methyl-oxazole | 0.600 g | C(C)(C)(C)C=1OC(=C(N1)CCl)C | C9H14ClNO
reactant | 4-hydroxy-benzo[b]thiophene-7-carbaldehyde | 3.197 mmol, 0.570 g | OC1=CC=C(C=2SC=CC21)C=O | C9H6O2S
reactant | Cs2CO3 | 3.517 mmol, 1.146 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetone | 12 ml | CC(=O)C | C3H6O
product | 4-(2-tert-Butyl-5-methyl-oxazol-4-ylmethoxy)-benzo[b]thiophene-7-carbaldehyde | 0.901 g | C(C)(C)(C)C=1OC(=C(N1)COC1=CC=C(C=2SC=CC21)C=O)C | C18H19NO3S
